US07582629B2
2-Ethyl-4-hydroxy-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide
Potassium tert-butoxide (0.309 g, 1.83 mmol) was added to a solution of N-ethyl-1-[4-(trifluoromethyl)phenyl]methanesulfonamide (0.49 g, 1.83 mmol) and diethyl oxalate (0.322 g, 2.20 mmol) in THF (4 mL) at 0° C. The mixture was heated in a microwave reactor at 150° C. for 10 mins. HCl (1M, 2 mL) was added dropwise to the mixture at 0° C. It was evaporated and the residue was extracted with DCM. The organic layer was dried and evaporated to give the title compound (0.480 g, 81%) as a solid; 1H NMR (500 MHz, CDCl3): δ 8.05 (d, 2H), 7.77 (d, 2H), 3.87 (q, 2H), 1.49 (t, 3H); Mass Spectrum: M−H+ 320.

reactant | Potassium tert-butoxide | 1.83 mmol, 0.309 g | CC(C)([O-])C.[K+]
reactant | N-ethyl-1-[4-(trifluoromethyl)phenyl]methanesulfonamide | 1.83 mmol, 0.49 g | C(C)NS(=O)(=O)CC1=CC=C(C=C1)C(F)(F)F | C10H12F3NO2S
reactant | diethyl oxalate | 2.20 mmol, 0.322 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 1M, 2 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-4-hydroxy-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide | 0.480 g, 81% | C(C)N1S(C(=C(C1=O)O)C1=CC=C(C=C1)C(F)(F)F)(=O)=O | C12H10F3NO4S
